US04399141
Potassium tert-butoxide (6.8 g., 0.06 mole) was added to a stirred slurry of 3,10-dibromo-5H-dibenzo[a,d]cyclohepten-5-one and 3,11-dibromo-5H-dibenzo[a,d]cyclohepten-5-one (18.2 g., 0.05 mole), 4-methylpiperazine (10 ml.), and dry tert-butyl alcohol (200 ml.) at room temperature and under nitrogen. The dark orange mixture was heated to refluxing for 2 hours and then stirred at room temperature overnight. The mixture was poured into approximately 800 ml. of ice and water and extracted with ether. The ether extract was washed with water, dried over anhydrous sodium sulfate, filtered, and evaporated. The mixture of 3-bromo-10-(4-methylpiperazinyl)-5H-dibenzo[a,d]cyclohepten-5-one and 3-bromo-11-(4-methylpiperazinyl)-5H-dibenzo[a,d]cyclohepten-5-one was obtained as a residual red-yellow gum; yield, 19.4 g. 100%.

reactant | Potassium tert-butoxide | 0.06 mole, 6.8 g | CC(C)([O-])C.[K+]
reactant | 3,10-dibromo-5H-dibenzo[a,d]cyclohepten-5-one | BrC=1C=CC2=C(C(C3=C(C(=C2)Br)C=CC=C3)=O)C1 | C15H8Br2O
reactant | 3,11-dibromo-5H-dibenzo[a,d]cyclohepten-5-one | 0.05 mole, 18.2 g | BrC=1C=CC2=C(C(C3=C(C=C2Br)C=CC=C3)=O)C1 | C15H8Br2O
reactant | 4-methylpiperazine | 10 ml | CN1CCNCC1 | C5H12N2
solvent | tert-butyl alcohol | 200 ml | C(C)(C)(C)O | C4H10O
product | 3-bromo-11-(4-methylpiperazinyl)-5H-dibenzo[a,d]cyclohepten-5-one | BrC=1C=CC2=C(C(C3=C(C=C2N2CCN(CC2)C)C=CC=C3)=O)C1 | C20H19BrN2O
